US07723333B2
2-{2-[(2-Isopropyl-1,1-dioxido-3-oxo-5-phenyl-2,3-dihydroisothiazol-4-yl)amino]ethoxy}phenyl methanesulfonate
2-[(2-Isopropyl-1,1-dioxido-3-oxo-5-phenyl-2,3-dihydroisothiazol-4-yl)amino]ethyl 4-methylbenzenesulfonate (200 mg, 0.431 mmol) was dissolved in dry MeCN (4 mL) under nitrogen atmosphere. 2-Hydroxyphenyl methanesulfonate (89 mg, 0.474 mmol) was added followed by potassium carbonate (297 mg, 2.152 mmol). The reaction mixture was heated in a microwave reactor for 15 mins at 120° C. Potassium carbonate was filtered off and the reaction mixture was concentrated and redissolved in EtOAc. The mixture was washed with NaHCO3, dried over Na2SO4, filtered and evaporated. The residue was purified on a Horizon TM flash system using Heptane and EtOAc as eluant and TEA as additative and then purified by column chromatography (ISOLUTE SI, (5 g)) using DCM as eluant to afford the title compound (31 mg, 15%). 1H NMR (CDCl3, 500 MHz): δ 1.59 (d, 6H), 3.22 (s, 3H), 3.31 (q, 2H), 3.96 (t, 2H), 4.38-4.46 (m, 1H), 5.88 (t, 1H), 6.89 (d, 1H), 7.02 (t, 1H), 7.23-7.30 (m, 2H), 7.46-7.48 (m, 3H), 7.53-7.56 (m, 2H); 13C NMR (CDCl3, 125 MHz): δ 20.38, 38.57, 43.36, 47.85, 67.23, 108.08, 114.71, 122.38, 124.59, 125.14, 128.55, 129.15, 130.09, 131.63, 135.62, 138.64, 150.55, 158.40; Mass Spectrum: M+H+ 481.1.

reactant | 2-[(2-Isopropyl-1,1-dioxido-3-oxo-5-phenyl-2,3-dihydroisothiazol-4-yl)amino]ethyl 4-methylbenzenesulfonate | 0.431 mmol, 200 mg | CC1=CC=C(C=C1)S(=O)(=O)OCCNC=1C(N(S(C1C1=CC=CC=C1)(=O)=O)C(C)C)=O | C21H24N2O6S2
reactant | 2-Hydroxyphenyl methanesulfonate | 0.474 mmol, 89 mg | CS(=O)(=O)OC1=C(C=CC=C1)O | C7H8O4S
reactant | potassium carbonate | 2.152 mmol, 297 mg | C([O-])([O-])=O.[K+].[K+]
solvent | MeCN | 4 mL | CC#N | C2H3N
product | 2-{2-[(2-Isopropyl-1,1-dioxido-3-oxo-5-phenyl-2,3-dihydroisothiazol-4-yl)amino]ethoxy}phenyl methanesulfonate | 31 mg, 15% | CS(=O)(=O)OC1=C(C=CC=C1)OCCNC=1C(N(S(C1C1=CC=CC=C1)(=O)=O)C(C)C)=O | C21H24N2O7S2
